US08530470B2
An aqueous NaOH 2N (0.804 ml, 1.61 mmol) solution was added to methyl 8-(1-(3-fluorophenyl)pyrrolidin-2-yl)-2-((R)-2-methylmorpholino)-4-oxo-4H-chromene-6-carboxylate (0.25 g, 0.54 mmol) suspended in MeOH (4 mL). The solution was stirred at 40° C. overnight then cooled to 0° C. and an aqueous HCl 2N (0.670 ml, 1.34 mmol) solution was added dropwise to the reaction mixture until pH ˜3. The resulting precipitate was collected by filtration, washed with water and dried under vacuum at 50° C. in presence of P2O5 to a constant weight to afford 8-(1-(3-fluorophenyl)pyrrolidin-2-yl)-2-((R)-2-methylmorpholino)-4-oxo-4H-chromene-6-carboxylic acid (201 mg, 83%) as a beige solid. Mass Spectrum: m/z [M+H]+=453.

reactant | NaOH | 1.61 mmol, 2N, 0.804 ml | [OH-].[Na+]
reactant | methyl 8-(1-(3-fluorophenyl)pyrrolidin-2-yl)-2-((R)-2-methylmorpholino)-4-oxo-4H-chromene-6-carboxylate | 0.54 mmol, 0.25 g | FC=1C=C(C=CC1)N1C(CCC1)C=1C=C(C=C2C(C=C(OC12)N1C[C@H](OCC1)C)=O)C(=O)OC | C26H27FN2O5
reactant | HCl | 1.34 mmol, 2N, 0.670 ml | Cl | ClH
solvent | MeOH | 4 mL | CO | CH4O
product | 8-(1-(3-fluorophenyl)pyrrolidin-2-yl)-2-((R)-2-methylmorpholino)-4-oxo-4H-chromene-6-carboxylic acid | 201 mg, 83% | FC=1C=C(C=CC1)N1C(CCC1)C=1C=C(C=C2C(C=C(OC12)N1C[C@H](OCC1)C)=O)C(=O)O | C25H25FN2O5
